US09029374B2
8-(1-aminoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (232 mg, 0.67 mmol, [α]D20°: +35° in acetonitrile), 3,4,5-trifluorophenylboronic acid (236 mg, 1.34 mmol), diacetoxycopper hydrate (148 mg, 0.74 mmol) and molecular sieves 4 A (1 g) were weighed out in a flask. Dichloroethane (4 mL) then pyridine (0.109 mL, 1.34 mmol) were added and the resulting mixture was stirred at RT for 2 days under an oxygen atmosphere. The mixture was diluted with DCM, filtered through a pad of celite, the filtrate was washed with a 0.5N NaOH aq. sol. and the aqueous phase extracted with DCM. The combined organics were dried over magnesium sulphate and concentrated down. The crude product was purified by flash chromatography on silica gel eluting with 0 to 10% MeOH in ethyl acetate/DCM (1:1). The solvent was evaporated to dryness to afford N,N-dimethyl-2-morpholino-4-oxo-8-(1-(3,4,5-trifluorophenylamino)ethyl)-4H-chromene-6-carboxamide single enantiomer (100 mg, 31%) as a white foam. Mass Spectrum: M+H+ 476. [α]D20°: −108° in MeCN. NMR Spectrum (CDCl3): 1.56 (d, 3H), 2.91 (s, 3H), 3.09 (s, 3H), 3.47-3.56 (m, 4H), 3.82-3.90 (m, 4H), 4.35 (d, 1H), 4.79-4.88 (m, 1H), 5.56 (s, 1H), 6.03 (dd, 2H), 7.70 (d, 1H), 8.12 (d, 1H).

reactant | 8-(1-aminoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 0.67 mmol, 232 mg | NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C | C18H23N3O4
reactant | 3,4,5-trifluorophenylboronic acid | 1.34 mmol, 236 mg | FC=1C=C(C=C(C1F)F)B(O)O | C6H4BF3O2
reactant | Dichloroethane | 4 mL | ClC(C)Cl | C2H4Cl2
reactant | pyridine | 1.34 mmol, 0.109 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | diacetoxycopper hydrate | 0.74 mmol, 148 mg | O.C(C)(=O)O[Cu]OC(C)=O
product | N,N-dimethyl-2-morpholino-4-oxo-8-(1-(3,4,5-trifluorophenylamino)ethyl)-4H-chromene-6-carboxamide | CN(C(=O)C=1C=C2C(C=C(OC2=C(C1)C(C)NC1=CC(=C(C(=C1)F)F)F)N1CCOCC1)=O)C | C24H24F3N3O4
